US06797820B2
To a solution of (2S,3R)-3-(n-butyl)-2-hydroxysuccinic acid F-4 (300 mg, 1.58 mmol) and powdered molecular sieves (1 g) in trimethyl orthobenzoate (5 mL) and toluene (5 ml) was added 10-Camphorsulfonic acid (20 mg) and the reaction was heated at 110° C. under vacuum (20 torr) for 5 h. The solution was diluted with ethyl acetate, filtered through Celite and washed with brine, dried (Na2SO4) and then purified by silica gel chromatography to afford 1.2 mmol 2-(2-methoxy-2-phenyl-4-oxo-1,3-dioxolan-5-yl)hexanoic acid I-1 (40%).

reactant | (2S,3R)-3-(n-butyl)-2-hydroxysuccinic acid | C(CCC)[C@H]([C@@H](C(=O)O)O)C(=O)O | C8H14O5
reactant | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
reactant | 10-Camphorsulfonic acid | 20 mg | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | trimethyl orthobenzoate | 5 mL | COC(C1=CC=CC=C1)(OC)OC | C10H14O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2-methoxy-2-phenyl-4-oxo-1,3-dioxolan-5-yl)hexanoic acid | 1.2 mmol | COC1(OC(C(O1)=O)C(C(=O)O)CCCC)C1=CC=CC=C1 | C16H20O6
